US08022205B2
3-(2-Morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-benzoic acid methyl ester (G-01)
4-Chloro-2-morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine (317 mg, 1.00 mmol), palladium acetate (11 mg, 5 mol %), S-Phos (41 mg, 10 mol %) and 3-methoxycarbonylphenylboronic acid (637 mg) were dissolved in dimethylformamide (10 ml). Then, argon substitution was carried out three times under ultrasonic irradiation in reduced pressure. The reaction mixture was stirred at 100° C. for 2 hours, and the reaction mixture was allowed to cool to room temperature, and then poured onto water (100 ml). The reaction mixture was extracted twice with ethyl acetate/tetrahydrofuran (4/1, 100 ml), and the combined organic layers were washed with brine, followed by drying over sodium sulfate. After the drying agent was filtered off, the filtrate was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (dichloromethane/methanol=100/0 to 50/1), to obtain a colorless solid (374 mg, 90%).

reactant | 4-Chloro-2-morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | 1.00 mmol, 317 mg | ClC=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C=2C=NC=CC2 | C15H16ClN5O
reactant | S-Phos | 41 mg | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
reactant | 3-methoxycarbonylphenylboronic acid | 637 mg | COC(=O)C=1C=C(C=CC1)B(O)O | C8H9BO4
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 11 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-(2-Morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-benzoic acid methyl ester | 374 mg, 90% | COC(C1=CC(=CC=C1)C=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C=2C=NC=CC2)=O | C23H23N5O3
